US05525632
Step 2: Preparation of (Z)-1-(3-amino-4-methylphenyl)-2-(3,4,5-trimethoxyphenyl) ethene
65 mg of (Z)-1-(3-nitro-4-methylphenyl)-2-(3,4,5-trimethoxyphenyl) ethene were dissolved in 4 ml of acetic acid and 4 ml of dichloromethane, and 300 mg of zinc were added thereto and stirred for one hour. The reaction liquid was filtered, concentrated and purified by silica gel column chromatography (dichloromethane:hexane=2.1 by volume) to obtain 29 mg of the intended compound. The yield was 46.5%.

reactant | (Z)-1-(3-nitro-4-methylphenyl)-2-(3,4,5-trimethoxyphenyl) ethene | 65 mg | [N+](=O)([O-])C=1C=C(C=CC1C)\C=C/C1=CC(=C(C(=C1)OC)OC)OC | C18H19NO5
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | zinc | 300 mg | [Zn] | Zn
product | (Z)-1-(3-amino-4-methylphenyl)-2-(3,4,5-trimethoxyphenyl) ethene | 29 mg, yield was 46.5% | NC=1C=C(C=CC1C)\C=C/C1=CC(=C(C(=C1)OC)OC)OC | C18H21NO3
